US08114867B2
199.i. (6-methoxy-[1,5]naphthyridin-4-yloxy)-acetic acid
K2CO3 (785 mg, 1 eq.) was added to a suspension of 6-methoxy-[1,5]naphthyridin-4-ol (1 g, 5.7 mmol, WO 02/08224) in DMSO (7 mL). The mixture was vigorously stirred for 2.5 h after which ethyl bromoacetate was added dropwise. The resulting mixture was heated at 50° C. for 4 h. 2N NaOH (5 mL) was then added at 50° C. and stirring was continued at rt overnight. The mixture was quenched with water. AcOH was added and the mixture was extracted with DCM/MeOH 9:1. The org. layer was washed with water, dried over MgSO4 and concentrated to afford the title intermediate as a pale yellow solid (693 mg, 52% yield).

reactant | K2CO3 | 785 mg, 1 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 6-methoxy-[1,5]naphthyridin-4-ol | 5.7 mmol, 1 g | COC=1N=C2C(=CC=NC2=CC1)O | C9H8N2O2
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | NaOH | 2N, 5 mL | [OH-].[Na+]
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | (6-methoxy-[1,5]naphthyridin-4-yloxy)-acetic acid | 693 mg, 52% yield | COC=1N=C2C(=CC=NC2=CC1)OCC(=O)O | C11H10N2O4
